US05939359
Synthesis of methyl 2-(trifluoromethylphenoxy)pyrazine-3-carboxylate
A stream of dry hydrogen chloride is passed into a solution of 5.3 g (20 mmol) of 2-(trifluoromethylphenoxy)-3-cyanopyrazine in 320 ml of dry methanol at 0° C. until saturation is reached. The reaction mixture is cooled to room temperature and, after 2 hours, 320 ml of distilled water are added. The solution is extracted with diethyl ether and the organic phase is washed with distilled water, dried over magnesium sulfate, filtered and freed from the solvent under reduced pressure. The crude product is purified by chromatography (silica gel, cyclohexane/ethyl acetate 10/1 (v/v)). 2.2 g (37%) of colorless, crystalline solid of melting point 83-85° C. are obtained.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-(trifluoromethylphenoxy)-3-cyanopyrazine | 20 mmol, 5.3 g | FC(F)(F)C1=C(OC2=NC=CN=C2C#N)C=CC=C1 | C12H6F3N3O
reactant | water | 320 ml | O | H2O
reactant | methanol | 320 ml | CO | CH4O
product | methyl 2-(trifluoromethylphenoxy)pyrazine-3-carboxylate | FC(F)(F)C1=C(OC2=NC=CN=C2C(=O)OC)C=CC=C1 | C13H9F3N2O3
